US04891432
To a mixture of 2.46 g p-[5-(1-imidazolyl)pentyloxy]phenol, 24 ml ethanol and 1.75 g potassium carbonate, was added 2.1 g 1-bromonoane, and the resulting mixture was heated under reflux with stirring for two days. The solvent was distilled off under reduced pressure, the residue was extracted with chloroform, and the extract was washed with water, dehydrated and concentrated. The crude product thus obtained was purified by silica gel column chromatography, affording 0.88 g of [p-[5-(1-imidazolyl)pentyloxy]phenoxy]nonane.

reactant | p-[5-(1-imidazolyl)pentyloxy]phenol | 2.46 g | N1(C=NC=C1)CCCCCOC1=CC=C(C=C1)O | C14H18N2O2
reactant | potassium carbonate | 1.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 24 ml | C(C)O | C2H6O
product | [p-[5-(1-imidazolyl)pentyloxy]phenoxy]nonane | 0.88 g | N1(C=NC=C1)CCCCCOC1=CC=C(OCCCCCCCCC)C=C1 | C23H36N2O2
